US08445684B2
To a solution of 3-[5-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]-3-isoxazolyl]propionic acid methyl ester (330 mg, 0.79 mmol) in 1,4-dioxane (4 mL) was added 40 wt % solution of methylamine in H2O (2.7 mL, 31.6 mmol). The mixture was heated at 120° C. for 12 h, cooled, and concentrated. The residue was dissolved in water and extracted with CH2Cl2. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by CC on SiO2 with EtOAc/hexane 2:1 to give N-methyl-3-[5-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]-3-isoxazolyl]propionamide (217 mg, 66%).

reactant | 3-[5-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]-3-isoxazolyl]propionic acid methyl ester | 0.79 mmol, 330 mg | COC(CCC1=NOC(=C1)C=1C=NC=C(C1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C)=O | C21H27N3O6
reactant | methylamine | CN | CH5N
reactant | H2O | 31.6 mmol, 2.7 mL | O | H2O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-methyl-3-[5-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]-3-isoxazolyl]propionamide | 217 mg, 66% | CNC(CCC1=NOC(=C1)C=1C=NC=C(C1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C)=O | C21H28N4O5
